US04948794
A mixture of 15.09 g (78 mmol) 2,4-dichloronitrobenzen, 7,7 g (78 mmol) cyclohexylamine, 7.9 g (78 mmol) triethylamine and 100 ml dimethylformamide was stirred at 80° C. for 3 h. After cooling to 25° C. the mixture was evaporated, dissolved in 200 ml ether and filtered. The ether solution was washed with water and evaporated to the half volume. The precipitate was filtered off to give 3.8 g (19%) N-cyclohexyl-2-nitro5-chloraniline. M.p. 124.5° C. 1H-NMR (CDCl3): 8.2 (2H, m), 6.8 (1H, d), 6.5 (1H, dd), 3.5 (1H, broad s), 2.4-0.8 (1OH, m).

reactant | 2,4-dichloronitrobenzen | 78 mmol, 15.09 g | ClC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cyclohexylamine | 78 mmol, 7,7 g | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 78 mmol, 7.9 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-cyclohexyl-2-nitro5-chloraniline | 3.8 g, 19% | C1(CCCCC1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C12H15ClN2O2
